US07691867B2
A solution of N-(3-fluorophenyl)-2-{4-[(7-hydroxyquinazolin-4-yl)amino]-1H-pyrazol-1-yl}acetamide (0.590 g, 0.97 mmol), cesium carbonate (1.95 g, 5.98 mmol) and tert-butyl (2S)-2-{[(methylsulphonyl)oxy]methyl}pyrrolidine-1-carboxylate (0.325 g, 1.16 mmol) in dimethylacetamide (10 ml) was heated at 80° C. for 18 hours. The mixture was poured into water and extracted with ethyl acetate. The organic layer was separated, dried over magnesium sulphate and evaporated in vacuo to leave a brown oil which was purified by silica gel chromatography. Elution with 5 to 7% methanol in dichloromethane gave tert-butyl (2S)-2-[({4-[(1-{2-[(3-fluorophenyl)amino]-2-oxoethyl}-1H-pyrazol-4-yl)amino]quinazolin-7-yl}oxy)methyl]pyrrolidine-1-carboxylate (0.332 g, 61% yield) as a light brown solid.

reactant | N-(3-fluorophenyl)-2-{4-[(7-hydroxyquinazolin-4-yl)amino]-1H-pyrazol-1-yl}acetamide | 0.97 mmol, 0.590 g | FC=1C=C(C=CC1)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC=C12)O)=O | C19H15FN6O2
reactant | cesium carbonate | 5.98 mmol, 1.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl (2S)-2-{[(methylsulphonyl)oxy]methyl}pyrrolidine-1-carboxylate | 1.16 mmol, 0.325 g | CS(=O)(=O)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | water | O | H2O
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | tert-butyl (2S)-2-[({4-[(1-{2-[(3-fluorophenyl)amino]-2-oxoethyl}-1H-pyrazol-4-yl)amino]quinazolin-7-yl}oxy)methyl]pyrrolidine-1-carboxylate | 0.332 g, 61% yield | FC=1C=C(C=CC1)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC=C12)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C29H32FN7O4
